US07615569B2
To a suspension of 4-acetyl-N-thiazol-2-yl-benzenesulfonamide (10 mmol) and potassium carbonate (15 mmol) in DMF (30 mL) was added chloro-methoxy-methane (10 mmol) and the mixture was stirred for 4 h. The reaction mixture was diluted with water (30 mL) and the resulting mixture was extracted with ethyl acetate. The organic phase was washed with brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by column chromatography to give 4-cyano-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide (5.2 mmol) as a white solid.

reactant | 4-acetyl-N-thiazol-2-yl-benzenesulfonamide | 10 mmol | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C11H10N2O3S2
reactant | potassium carbonate | 15 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | chloro-methoxy-methane | 10 mmol | ClCOC | C2H5ClO
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | 4-cyano-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide | 5.2 mmol | C(#N)C1=CC=C(C=C1)S(=O)(=O)N(C=1SC=CN1)COC | C12H11N3O3S2
